Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]1([H:7])([H:8])[N:2]([H:9])[C@:3]1([C@@:4]1([H:11])[C:5]([H:12])([H:13])[N:6]1[H:14])[H:10]>>[C:1]1([H:7])([H:8])[N:2]([H:9])/[C:3]1=[C:4]([C:5](=[N:6]/[H:14])\[H:12])/[H:11].[H:10][H:13],120.945164092276
[N:1](=[C:2]1/[O:3][C@@:6]([N:7]([H:8])[H:13])([H:12])[O:5][C:4]1([H:10])[H:11])\[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],27.554608574646405
[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4][H:12])([C@:6]1([H:15])[C:5]([H:13])([H:14])[O:7]1)[H:11])([H:9])[H:10])[H:8],75.5561997427457
[C:1]([C@@:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C:3]([O+:4]=[C:2]=[C:5]=[N-:6])([H:10])[H:11])([H:7])([H:8])[H:9],92.7097994277489
[C:1]([N:2]([C@@:3]1([H:12])[O:4][C@@:5]1([O:6][H:13])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],44.08174375888871
[N:1]([C:2]#[C:7][C:6](=[O:5])[H:9])([H:8])[H:10].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],65.3846823359764
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([H:10])[H:11])([H:8])[H:9].[O:5]=[C:6]([O:7])[H:12],76.985416829717
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([C:6](=[O:7])[H:13])[O:3][C@:4]1([O:5][H:11])[H:12])([H:8])([H:9])[H:10],49.825017537895896
[C:1]([C:2]([N:3]([C:4]#[N:5])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]=[N:7][H:14]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],32.047394442891814
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O+:7]=[C:6]([C:4](=[C:2]=[O:3])[O-:5])[H:11])([H:8])([H:9])[H:10],74.977923830244
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([C:6]([H:14])([H:15])[H:16])[C:4]1([C:5]([H:11])([H:12])[H:13])[O:7][H:17])([H:8])([H:9])[H:10],73.17514472828691
[C+:1]([C:2](=[C-:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],12.693555827051497
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2][C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])([H:8])([H:9])[H:10].[O:3]([H:11])[H:12],73.4482716922515
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@:5]1([N:7]=[C:6]([H:11])[H:12])[H:13])\[H:8],68.15320135307721
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])(/[C:4](=[C:5](/[O:6][H:12])[H:14])[H:13])[H:10])([H:7])([H:8])[H:9],63.1597984833819
[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9]>>[N:1]([N:4]([N+:3]#[C-:2])[C:5]([N:6]([H:10])[H:11])=[O:7])([H:8])[H:9],94.5468740624157
[N:1](=[C:2](/[O:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1]([C:2](=[O:3])[H:8])([C:6](=[C:5]=[C:4]([H:9])[H:10])[H:11])[H:7],24.300101706854402
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]([O:7][H:19])([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4](=[C:5]([H:14])[H:15])[C:6]([O:7][H:19])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:16],106.93285214772101
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]=[C:4]([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])[H:8].[C:5]([H:9])([H:11])([H:12])[H:13],84.1094156498587
[N:1]1=[C:2]=[C:3]1[C:4](=[O:5])[H:8].[N:6]#[N:7]>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],39.506385034912604
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C-:3]([H:12])[H:13])([C@@:4]1([H:14])[C:5]([H:15])([H:16])[C+:6]=[C:7]1[H:17])[H:11])([H:8])([H:9])[H:10],73.6736603158866
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:4]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9].[O:3]([C:5](=[O:6])[H:14])[H:11],45.42766090371679
[C:1]([C:2]12[C:3]([H:12])([H:13])[C:4]1([H:11])[C:7]2([H:16])[H:17])([H:8])([H:9])[H:10].[C:5](=[O:6])([H:14])[H:15]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],58.18483347301341
[C-:4]#[O+:5].[C-:6]#[O+:7].[C:1]([C:2](=[O:3])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],43.66367580522864
